US08431574B2
Step E. Preparation of 2-(4-bromo-2-fluorophenylamino)-6-oxo-1,6-dihydropyridine-3-carboxylic acid
To a suspension of 2-(4-bromo-2-fluorophenylamino)-6-oxo-1,6-dihydropyridine-3-carboxylic acid methyl ester (0.050 g, 0.147 mmol) in methanol (1.5 mL) was added 1 M NaOH (1.47 mL, 1.47 mmol). The reaction mixture was stirred at 75-80° C. for 2 days. The reaction mixture was diluted with H2O and the pH was adjusted with 1 M HCl until 1-2. The reaction mixture was diluted with EtOAc and washed with saturated NaCl, dried (Na2SO4), and concentrated under reduced pressure. The crude product was triturated with diethyl ether/dichloromethane and the resulting solid was collected and dried under vacuum to yield 0.033 g (69%) pure desired product as a yellow solid. MS ESI (+) m/z 327, 329 (M+, Br pattern) detected; 1H NMR (400 mHz, DMSO-d6) δ 13.1 (br s, 1H), 11.5 (s, 1H), 10.9 (s, 1H), 8.77 (br s, 1H), 8.10 (d, 1H), 7.59 (d, 1H), 7.35 (d, 1H) 6.16 (m, 1H).

reactant | 2-(4-bromo-2-fluorophenylamino)-6-oxo-1,6-dihydropyridine-3-carboxylic acid methyl ester | 0.147 mmol, 0.050 g | COC(=O)C1=C(NC(C=C1)=O)NC1=C(C=C(C=C1)Br)F | C13H10BrFN2O3
reactant | NaOH | 1.47 mmol, 1 M, 1.47 mL | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | methanol | 1.5 mL | CO | CH4O
solvent | H2O | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(4-bromo-2-fluorophenylamino)-6-oxo-1,6-dihydropyridine-3-carboxylic acid | 0.033 g, 69% | BrC1=CC(=C(C=C1)NC=1NC(C=CC1C(=O)O)=O)F | C12H8BrFN2O3
